US04238496
The starting compound was prepared as follows: 15 gm of o-methoxy-acetophenone was intimately admixed with 15.2 gm of thiourea in a resin flask, and 27.7 gm of iodine were added in small portions to the mixture. After all of the iodine had been added, the reaction mixture was heated overnight on an oil bath at 100°0 C. After cooling, first 50 ml of methanol and then 400 to 500 ml of water were added to the reaction mixture. The solidified mass was comminuted in a motar, the suspension was filtered, and the filter cake was washed first with water, then with some ethanol and then with ether, and finally dried. 27.7 gm (83% of theory) of 2-amino-4-(2'-methoxy-phenyl)-thiazole hydroiodide were obtained, which could be used as the starting compound without further purification.

reactant | o-methoxy-acetophenone | 15 gm | COC1=C(C=CC=C1)C(C)=O | C9H10O2
reactant | thiourea | 15.2 gm | NC(=S)N | CH4N2S
reactant | iodine | 27.7 gm | II | I2
reactant | methanol | 50 ml | CO | CH4O
solvent | water | 400 to 500 ml | O | H2O
product | 2-amino-4-(2'-methoxy-phenyl)-thiazole hydroiodide | 27.7 gm, 83% | I.NC=1SC=C(N1)C1=C(C=CC=C1)OC | InChI=1S/C10H10N2OS.HI/c1-13-9-5-3-2-4-7(9)8-6-14-10(11)12-8;/h2-6H,1H3,(H2,11,12);1H
